data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2536,2816,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][NH:26][C:27](=[O:28])[N:29]=[N+:30]([CH3:31])[N-:32][C:33]([CH3:34])=[O:35]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[N:29]([C:27]([NH:26][CH3:25])=[O:28])[N:30]([CH3:31])[N:32]2[C:33]([CH3:34])=[O:35],water,298.15,19.8140229948938,-33.719730758940656
2348,2606,[CH3:16][O:17][C:18](=[O:19])[C:20](=[NH+:21][N-:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]#[N:9])([C:10]#[N:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[N:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:21][C:20]2([C:18]([O:17][CH3:16])=[O:19])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,17.684855305410682,-40.12469509432067
3277,3713,[CH3:9][C:10](=[O:11])[C-:12]([N+:13]#[N:14])[C:15]([CH3:16])=[O:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([C:15]([CH3:16])=[O:17])[N:13]=[N:14]1,water,298.15,31.642469641785464,-0.928305738927381
870,943,[CH3:15][N-:16][O+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([C:11]#[N:12])[C:13]#[N:14]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([C:11]#[N:12])([C:13]#[N:14])[CH:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:17][N:16]1[CH3:15],water,298.15,0.5929684589161671,-31.8283103395062
2977,3329,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([N+:8]#[N:9])[C:10](=[O:11])[O:12][CH3:13]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([C:10](=[O:11])[O:12][CH3:13])[N:8]=[N:9]1,water,298.15,28.016851906908325,-12.758256419234874
4243,4853,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([C:14]#[N:15])[C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[NH:12][C:13]1([C:14]#[N:15])[C:16]#[N:17],water,298.15,25.7363454044416,-6.9091535118730825
3709,4236,[CH2-:10][O+:11]=[C:12]([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([C:13]([CH3:14])=[O:15])([C:16](=[O:17])[NH:18][CH3:19])[O:11][CH2:10]1,water,298.15,5.838431876105798,-44.55427025220345
3218,3634,[CH3:10][C:11]([CH3:12])=[O+:13][N-:14][C:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])([CH3:12])[O:13][N:14]1[C:15]#[N:16],water,298.15,21.97521921752552,-15.818475352122883
3518,4010,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[CH3:18],water,298.15,27.144370412382887,-30.89592836782607
527,574,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][C-:16]([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22].[CH3:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,21.933540662731648,-36.34086684898895
480,525,[CH3:1][O:2][C:3]#[C:4][C:5]([CH3:6])=[O:7].[CH3:8][O:9][C:10](=[O:11])[CH:12]=[N+:13]([CH3:14])[N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[N:13]([CH3:14])[CH:12]1[C:10]([O:9][CH3:8])=[O:11],water,298.15,22.654456962423147,-42.52653074758092
2545,2825,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([C:7]([F:8])([F:9])[F:10])[C:11]([F:12])([F:13])[F:14]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[C:23]([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)([c:30]2[cH:31][cH:32][cH:33][cH:34][cH:35]2)[O:22][C:19]1([C:17]([O:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,37.05545143623514,10.890231212789292
